US07175854B2
azathioprine;
azathioprine sodium; cyclosporine; daltroban; gusperimus trihydrochloride; sirolimus; tacrolimus.

reactant | azathioprine sodium | CN1C=NC(=C1SC2=C3C(N=C[N-]3)=NC=N2)[N+](=O)[O-].[Na+]
reactant | cyclosporine | CC[C@H]1C(=O)N(CC(=O)N([C@H](C(=O)N[C@H](C(=O)N([C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N1)[C@@H]([C@H](C)C/C=C/C)O)C)C(C)C)C)CC(C)C)C)CC(C)C)C)C)C)CC(C)C)C)C(C)C)CC(C)C)C)C | C62H111N11O12
reactant | daltroban | C1=CC(=CC=C1CCNS(=O)(=O)C=2C=CC(=CC2)Cl)CC(=O)O | C16H16ClNO4S
reactant | gusperimus trihydrochloride | C(CCCNC(=N)N)CCC(=O)NC(C(=O)NCCCCNCCCN)O.Cl
reactant | sirolimus | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | tacrolimus | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
product | azathioprine | CN1C=NC(=C1SC2=C3C(N=CN3)=NC=N2)[N+](=O)[O-] | C9H7N7O2S
